US08981085B2
(R)-tert-Butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-5-cyclopropyl-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (81 mg, 0.14 mmol) was treated with TFA followed by 2M HCl in ether as described in Example 1, Step K, to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-cyclopropyl-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride (33 mg, 48% yield). 1H NMR (400 MHz, D2O) δ 9.16 (d, 1H), 8.82 (dd, 1H), 8.72 (dt, 1H), 7.95 (s, 1H), 7.92 (dd, 1H), 7.41 (s, 1H), 3.98-3.93 (m, 1H), 3.61-3.53 (m, 1H), 3.32-3.25 (m, 2H), 3.15-3.06 (m, 1H), 1.96-1.85 (m, 2H), 1.64-1.56 (m, 1H), 1.52-1.41 (m, 1H), 1.39-1.27 (m, 1H), 0.98-0.92 (m, 2H), 0.70-0.61 (m, 2H); LCMS (APCI+) m/z 377.2 (M+H)+, Retention time=2.12 minutes (Method 2).

reactant | (R)-tert-Butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-5-cyclopropyl-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.14 mmol, 81 mg | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C1=C2C(=NC=C1C1CC1)N(C=C2NC(C2=CN=CC=C2)=O)C(=O)OC(C)(C)C | C31H40N6O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 2M | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-cyclopropyl-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride | 33 mg, 48% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1C1CC1)NC=C2NC(C2=CN=CC=C2)=O | InChI=1S/C21H24N6O.ClH/c22-15-4-2-8-27(12-15)19-16(13-5-6-13)10-24-20-18(19)17(11-25-20)26-21(28)14-3-1-7-23-9-14;/h1,3,7,9-11,13,15H,2,4-6,8,12,22H2,(H,24,25)(H,26,28);1H/t15-;/m1./s1
